US07786108B2
Step 2. Preparation of 1,6,7,8-Tetrahydro-1-aza-as-indacene-2,3-dione
Add 2-Hydroxyimino-N-indan-4-yl-acetamide (5.54 g, 27.1 mmol) in small portions at 80° C. to methanesulfonic acid (21 mL). Stir the mixture at this temperature for 25 min. Cool to room temperature, pour into ice water and filter the precipitate. Dissolve the solid in warmed 1N NaOH, and neutralize with acetic acid. Filter the resulting solid and acidify the filtrate with concentrated HCl. Filter the precipitate and wash with water. Dry the solid to yield the title compound (3.80 g, 72%). MS (ES−): 186 (M−H).

reactant | 2-Hydroxyimino-N-indan-4-yl-acetamide | 27.1 mmol, 5.54 g | ON=CC(=O)NC1=C2CCCC2=CC=C1 | C11H12N2O2
reactant | methanesulfonic acid | 21 mL | CS(=O)(=O)O | CH4O3S
product | 1,6,7,8-Tetrahydro-1-aza-as-indacene-2,3-dione | 3.80 g, 72% | N1C(C(C2=CC=C3CCCC3=C12)=O)=O | C11H9NO2
